US04567263
10.5 g of p-tert.-butyl-2-formylbenzyl cyanide and 4.8 g of 3(5)-amino-5(3)-methylpyrazole in 40 ml of dimethylformamide were refluxed for 3 hours. The mixture was cooled, and 150 ml of water were then added dropwise. The crystals were filtered off under suction and then washed with water and dried under reduced pressure at 50° C. 11.3 g of 7-amino-2-methyl-6-(4'-tert.-butylphenyl)-pyrazolo[1,5-a]pyrimidine of melting point 218° C. were obtained (Compound 5).

reactant | p-tert.-butyl-2-formylbenzyl cyanide | 10.5 g | C(C)(C)(C)C1=CC(=C(CC#N)C=C1)C=O | C13H15NO
reactant | 3(5)-amino-5(3)-methylpyrazole | 4.8 g | CC1=CC(=NN1)N | C4H7N3
reactant | water | 150 ml | O | H2O
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-amino-2-methyl-6-(4'-tert.-butylphenyl)-pyrazolo[1,5-a]pyrimidine | 11.3 g | NC1=C(C=NC=2N1N=C(C2)C)C2=CC=C(C=C2)C(C)(C)C | C17H20N4
